US08071779B2
(3S)-tert-Butyl 3-(1-(Tetrahydro-2H-pyran-2-yl)-1H-indazol-5-ylamino)piperidine-1-carboxylate
A 500 mL round bottom flask with a stirbar was charged with 5-bromo-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole (28.0 g, 0.0996 mol, 1.00 eq), (S)-3-amino-Boc-piperidine (21.75 g, 0.109 mol, 1.09 eq), tris(dibenzylideneacetone)dipalladium (4.75 g, 5.18 mmol, 0.052 eq), racemic BINAP (7.44 g, 12.0 mmol, 0.12 eq), and sodium tert-butoxide (28.7 g, 0.299 mol, 3.00 eq). The flask containing the solids was then evacuated and back-filled with nitrogen three times to degas. Pyridine (200 mL) was then added, and the flask was again purged three times with vacuum and nitrogen. The dark greenish mixture was then stirred at 55° C. overnight under a nitrogen atmosphere. In the morning, the reaction was cooled to room temperature, diluted with 250 mL EtOAc, washed three times with 250 mL portions of 10% NaHSO4, and the organic phase was evaporated. The residue was dissolved in toluene and loaded onto a silica column that had been packed with heptane. The column was washed with 5 column volumes of heptane, after which the desired product was eluted with EtOAc/heptane, to provide the title compound as a pale yellow foam (2.4 g, 81%).

reactant | 5-bromo-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole | 0.0996 mol, 28.0 g, 1.00 eq | BrC=1C=C2C=NN(C2=CC1)C1OCCCC1 | C12H13BrN2O
reactant | (S)-3-amino-Boc-piperidine | 0.109 mol, 21.75 g, 1.09 eq | N[C@@H]1CN(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | BINAP | 12.0 mmol, 7.44 g, 0.12 eq | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium tert-butoxide | 0.299 mol, 28.7 g, 3.00 eq | CC(C)([O-])C.[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium | 5.18 mmol, 4.75 g, 0.052 eq | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (3S)-tert-Butyl 3-(1-(Tetrahydro-2H-pyran-2-yl)-1H-indazol-5-ylamino)piperidine-1-carboxylate | 2.4 g, 81% | O1C(CCCC1)N1N=CC2=CC(=CC=C12)N[C@@H]1CN(CCC1)C(=O)OC(C)(C)C | C22H32N4O3
